US09034880B2
Preparation of 2,3,4,5-tetrahydro-5-(2-(6-methoxypyridin-3-yl)ethyl)-2,8-dimethyl-1H-pyrido[4,3-b]indole (Compound 431)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, 2-methoxy-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 2-methoxy-5-vinylpyridine | COC1=NC=C(C=C1)C=C | C8H9NO
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2,3,4,5-tetrahydro-5-(2-(6-methoxypyridin-3-yl)ethyl)-2,8-dimethyl-1H-pyrido[4,3-b]indole | COC1=CC=C(C=N1)CCN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C21H25N3O
